US04021479
Ethyl 4-(2'-fluoro-4-biphenylyl)-4-hydroxy-butyrate
To a solution of 15 gm (0.05 mol) of ethyl 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyrate in 100 ml of methanol 1.9 gm (0.05 mol) of sodium borohydride were added at a temperature between 0° and 5° C., while stirring. The precipitate was vacuum-filtered off and dissolved in ether. The ethereal solution was washed with an aqueous sodium bicarbonate solution and then with water, dried and evaporated. The residual oil was recrystallized from cyclohexane. Yield: 12 gm (79.5% of theory), m.p. 61°-62° C.

reactant | ethyl 4-(2'-fluoro-4-biphenylyl)-4-oxo-butyrate | 0.05 mol, 15 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OCC)=O | C18H17FO3
reactant | methanol | 0.05 mol, 100 ml, 1.9 gm | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
product | Ethyl 4-(2'-fluoro-4-biphenylyl)-4-hydroxy-butyrate | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OCC)O | C18H19FO3
